US07985753B2
N-[2-(2-Bromo-phenyl)-ethyl]-acetamide
In close analogy to the procedure described above, 2-(2-Bromo-phenyl)-ethylamine is reacted with acetic anhydride to provide the title compound.

reactant | 2-(2-Bromo-phenyl)-ethylamine | BrC1=C(C=CC=C1)CCN | C8H10BrN
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-[2-(2-Bromo-phenyl)-ethyl]-acetamide | BrC1=C(C=CC=C1)CCNC(C)=O | C10H12BrNO
